US07915267B2
N-{[3-(aminomethyl)phenyl]methyl}-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide hydrochloride
To a suspension of 1,1-dimethylethyl {[3-({[(6-cyano-4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]methyl}carbamate obtained in Reference Example 46 (2.14 g, 4.94 mmol) in ethyl acetate (5 mL) was added 4N hydrogen chloride/ethyl acetate (60 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from toluene. The obtained crude crystals were suspended in ethyl acetate, and the suspension was stirred under heating for 3 hr to give the title compound as a white powder (1.86 g, 99%).

reactant | 1,1-dimethylethyl {[3-({[(6-cyano-4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]methyl}carbamate | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC=1C=C(C=CC1)CNC(OC(C)(C)C)=O)=O | C23H23N5O4
reactant | hydrogen chloride ethyl acetate | 4N, 60 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-{[3-(aminomethyl)phenyl]methyl}-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide hydrochloride | 1.86 g, 99% | Cl.NCC=1C=C(C=CC1)CNC(=O)C1=NC2=CC=C(C=C2C(N1)=O)C#N | InChI=1S/C18H15N5O2.ClH/c19-8-11-2-1-3-13(6-11)10-21-18(25)16-22-15-5-4-12(9-20)7-14(15)17(24)23-16;/h1-7H,8,10,19H2,(H,21,25)(H,22,23,24);1H
